US07737166B2
7-Bromo-6-iodo-8-methoxy-5-methyl-1H-benzo[d][1,3]oxazine-2,4-dione (I-32)
According to the same method as in Reference Example 31, 2-amino-4-bromo-5-iodo-3-methoxy-6-methylbenzoic acid (I-4) (3.42 g, 8.86 mmol) and bis(trichloromethyl) carbamate (893 mg, 3.01 mmol) were dissolved in dewatered tetrahydrofuran (70 ml) under nitrogen atmosphere, followed by stirring at 40° C. for 1 hour. The reaction liquid was concentrated under reduced pressure to obtain the entitled compound (3.89 g, quant.) as a pale brown solid. Not further purified, this was used in the next reaction.

reactant | 2-amino-4-bromo-5-iodo-3-methoxy-6-methylbenzoic acid | 8.86 mmol, 3.42 g | NC1=C(C(=O)O)C(=C(C(=C1OC)Br)I)C | C9H9BrINO3
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 7-Bromo-6-iodo-8-methoxy-5-methyl-1H-benzo[d][1,3]oxazine-2,4-dione | BrC=1C(=C(C2=C(NC(OC2=O)=O)C1OC)C)I | C10H7BrINO4
